US08242090B2
SDS-PAGE and Gelatin Zymography
Bovine type B gelatin (Sigma) was impregnated into a standard 10% PAGE resolving gel mixture (4% stacking) at a final concentration of 1 mg/ml. Where indicated, endothelial cells transfected with DNAzyme were co-transfected with 10 μg of a c-Jun expression vector. Equal amounts of protein were loaded and electrophoresis was performed at 4° C. Gels were then soaked in 2.5% Triton X-100 (Sigma) and incubated in substrate buffer (50 mM Tris HCl, pH 7.6, 10 mM CaCl2, and 0.02% NaN3) overnight at 37° C. The gels were stained for 1 h in 0.2% Coomassie Blue R-250 (Bio-Rad) in water, methanol and glacial acetic acid as 5:4:1, then gels were finally destained to reveal gelatinolytic activity and photographed.

reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | Tris HCl | 50 mM | C(C(CO)(CO)N)O.Cl
reactant | CaCl2 | 10 mM, pH 7.6 | [Cl-].[Cl-].[Ca+2]
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | Coomassie Blue R-250 | CCN(CC1=CC(=CC=C1)S(=O)(=O)O)C2=CC=C(C=C2)C(=C3C=CC(=[N+](CC)CC4=CC(=CC=C4)S(=O)(=O)[O-])C=C3)C5=CC=C(C=C5)NC6=CC=C(C=C6)OCC.[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+] | InChI=1S/C12H26O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;/h2-12H2,1H3,(H,13,14,15);/q;+1/p-1
